US08207172B2
Step 2. Preparation of 2-{6-[(3-chloro-4-fluorophenyl)amino]-4,5-dihydro-3H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-3-yl}ethanol
4-(3-Chloro-4-fluoro-phenylamino)-8-dimethylaminomethylene-5,8-dihydro-6H-benzo[4,5]thieno[2,3-d]pyrimidin-7-one (10.6 g, 0.026 mol) was heated to near homogeneity in dioxane (250 mL). The heat was turned off and nitrogen was bubbled through the murky solution for ˜20 min while it cooled. The reaction flask was then evacuated and filled with nitrogen three times. In a separate flask, tert-butyl 1-(2-hydroxyethyl)hydrazinecarboxylate (13.9 g, 0.079 mol) was dissolved in toluene, concentrated in vacuo to a residue, redissolved in dioxane, and sparged with nitrogen for ˜10 minutes. The solution of tert-butyl 1-(2-hydroxyethyl)hydrazinecarboxylate was evacuated and filled with nitrogen three times and then was cannulated into the flask containing the enamine. The resulting mixture became a clear red solution upon heating in an oil bath at ˜80° C. After 6 h the reaction mixture was concentrated in vacuo to half its original volume. Xylenes (250 mL) was added and the mixture was again concentrated to half the original volume. Xylenes (250 mL) was added and the mixture was concentrated to half the original volume a final time. During the solvent swap, a yellow-orange solid precipitated. The resulting slurry was submerged in an ice-bath and TFA (200 mL) was added dropwise via an addition funnel. The slurry became a brown-red solution that was allowed to stir overnight at room temperature. Two liquid phases were present the next morning. Solvent (˜200 mL) was removed in vacuo at ˜40° C. The remaining mixture (˜300 mL) was diluted with EtOAc (500 mL) and washed twice with 500 mL portions of 1.0 N NaOH. Significant emulsions formed during the final base wash, so more EtOAc (500 mL) was added with brine (100 mL) before collecting the aqueous layer. The organic layer was then washed with brine (2×300 mL). The organic layer was filtered through a small pad of silica gel (˜1″ diameter×2″) and the pad was washed with EtOAc (750 mL). The filtrate was concentrated to a total volume of ˜200 mL, resulting in the precipitation of solid. The slurry was filtered by vacuum filtration on a Buchner funnel and the resulting solid was allowed to dry overnight on the filter. An orange solid was obtained (7.25 g, 66%, >98% regioisomeric purity by 1H-NMR). 1H NMR (DMSO-d6) δ 8.56 (s, 1H), 8.38 (s, 1H), 7.88 (m, 1H), 7.66 (s, 1H), 7.61 (m, 1H), 7.40 (t, 1H), 4.93 (t, 1H), 4.16 (t, 2H), 3.73 (dt, 2H), 3.42 (t, 2H), 3.10 (t, 2H); LCMS RT=2.76 min; [M+H]+=416.4.

reactant | 4-(3-Chloro-4-fluoro-phenylamino)-8-dimethylaminomethylene-5,8-dihydro-6H-benzo[4,5]thieno[2,3-d]pyrimidin-7-one | 0.026 mol, 10.6 g | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)SC1=C2CCC(C1=CN(C)C)=O | C19H16ClFN4OS
reactant | tert-butyl 1-(2-hydroxyethyl)hydrazinecarboxylate | 0.079 mol, 13.9 g | OCCN(N)C(=O)OC(C)(C)C | C7H16N2O3
solvent | dioxane | 250 mL | O1CCOCC1 | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-{6-[(3-chloro-4-fluorophenyl)amino]-4,5-dihydro-3H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-3-yl}ethanol | ClC=1C=C(C=CC1F)NC1=NC=NC2=C1C1=C(C=3C=NN(C3CC1)CCO)S2 | C19H15ClFN5OS
